US07368446B2
(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-carbamic acid phenyl ester (IV)
A suspension of 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine (26.5 g, 100 mmol) in dichloromethane (56 ml) and pyridine (56 ml, 700 mmol) is added phenyl chloroformate (15.7 ml, 125 mmol) at 0-5° C. and the reaction mixture is warmed to ambient temperature. After 1 h, water (7.2 ml, 400 mmol) was added and the reaction mixture is heated for 1 h to 45° C. Then ethyl acetate (250 ml) and 2M HCL (125 ml) were added and the organic phase separated. After removal of the solvent and recrystallization from tert.butyl-methyl ether and finally from ethanol the title compound was obtained as white solid (80% yield), mp 166-168° C. MS: m/e=386(M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylamine | 100 mmol, 26.5 g | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | pyridine | 700 mmol, 56 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 125 mmol, 15.7 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | 400 mmol, 7.2 ml | O | H2O
solvent | dichloromethane | 56 ml | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | (4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC)=O | C19H19N3O4S
